US06329381B1
6-Amino-9-benzyl-2-(sec-butylamino)purine
6-Amino-9-benzyl-2-chloropurine (100 mg, 0.385 mmol) and sec-butylamine (282 mg, 3.85 mmol) suspended in 1-butanol (10 ml) were heated at 100° C. for 10 hours in autoclave. The reaction mixture was condensed in vacuo. To the residue was added 1N aqueous sodium hydroxide and the mixture was extracted with chloroform. The organic layer was dried on sodium sulfate, filtered and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (2% methanol/chloroform) to give the subject compound (71 mg, yield 62.8%).

reactant | 6-Amino-9-benzyl-2-chloropurine | 0.385 mmol, 100 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
reactant | sec-butylamine | 3.85 mmol, 282 mg | C(C)(CC)N | C4H11N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | 1-butanol | 10 ml | C(CCC)O | C4H10O
product | 6-Amino-9-benzyl-2-(sec-butylamino)purine | 71 mg, yield 62.8% | NC1=C2N=CN(C2=NC(=N1)NC(C)CC)CC1=CC=CC=C1 | C16H20N6
